US08106077B2
5-(4-Bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-[1,2,3]triazole
To a solution of [3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-yl]-methanol (300 mg, 1.05 mmol) in toluene (4 mL) are added 4-bromo-3-methyl-phenol (196 mg, 1.05 mmol) and tri-n-butylphosphine (394 μL, 1.58 mmol). The reaction mixture is cooled to 0° C. To the reaction mixture is added 1,1′-(Azocarbonyl)-dipiperidine (399 mg, 1.58 mmol) and the reaction mixture is warmed to room temperature. After 6 h, the reaction mixture is concentrated and the residue is chromatographed eluting with 10% to 20% EtOAc/hexanes to yield the title compound (324 mg, 68%). LC-ES/MS m/e 455.7 (M+1).

reactant | [3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-yl]-methanol | 1.05 mmol, 300 mg | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1CO)C(C)C | C12H13Cl2N3O
reactant | 4-bromo-3-methyl-phenol | 1.05 mmol, 196 mg | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | tri-n-butylphosphine | 1.58 mmol, 394 μL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-[1,2,3]triazole | 324 mg, 68% | BrC1=C(C=C(OCC2=C(N=NN2C2=C(C=CC=C2Cl)Cl)C(C)C)C=C1)C | C19H18BrCl2N3O
